US06794397B2
6-Chloro-N-(2-pyrazinyl)-3-pyridinecarboxamide
To a mixture of 6-chloronicotinoyl chloride (160 mg, 0.91 mmol), aminopyrazine (87 mg, 0.91 mmol) and THF (10 ml) was added triethylamine (0.25 ml, 1.82 mmol) and the mixture was stirred overnight at room temperature. The mixture was diluted with ethyl acetate (100 ml), wash with water (50 ml), saturated aqueous NaCl (50 ml), dried over anhydrous sodium sulfate and evaporated. The crude product was purified by column chromatography using hexane:ethyl acetate (3:2) to give 8 mg (4% yield) of the title compound as yellow solid. 1H NMR (CDCl3): 9.68 (d, J=1.2 Hz, 1H), 8.95 (d, J=2.7 Hz, 1H), 8.45 (d, J=2.7 Hz, 1H), 8.4 (bs, 1H), 8.33-8.32 (m, 1H), 8.23 (dd, J=2.4, 8.1 Hz, 1H), 7.53 (dd, J=0.6, 8.4 Hz, 1H).

reactant | 6-chloronicotinoyl chloride | 0.91 mmol, 160 mg | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | aminopyrazine | 0.91 mmol, 87 mg | NC1=NC=CN=C1 | C4H5N3
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | triethylamine | 1.82 mmol, 0.25 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-N-(2-pyrazinyl)-3-pyridinecarboxamide | 8 mg, 4% yield | ClC1=CC=C(C=N1)C(=O)NC1=NC=CN=C1 | C10H7ClN4O
